US08735384B2
A solution of 2-bromo-3-methylbenzonitrile (0.40 g, 2.04 mmol) in THF (2.04 mL) under inert atmosphere was cooled to 0° C. in an ice-water bath. A solution of o-tolylmagnesium bromide, ˜2M in Et2O (1.22 mL, 2.45 mmol) was added dropwise via syringe. On completion of addition reaction mixture was allowed to warm to ambient temperature and then heated to 50° C. for 3 h. 2 mL of 2N aq. HCl was added carefully, the heating element was turned off and the reaction mixture allowed to be cooled to ambient temperature and stirred overnight. Then the reaction mixture was diluted with water (75 mL) and extracted with EtOAc (1×75 mL). The organic extract was washed with water (75 mL), saturated aqueous sodium bicarbonate (75 mL), and brine (75 mL) and dried over MgSO4. The solution was filtered and concentrated in vacuo to give the crude material as a light-yellow oil. The crude material was purified by column chromatography eluting with a gradient of 5-50% Et2O in hexane, to provide (2-bromo-3-methylphenyl)(o-tolyl)methanone as a white solid.

reactant | 2-bromo-3-methylbenzonitrile | 2.04 mmol, 0.40 g | BrC1=C(C#N)C=CC=C1C | C8H6BrN
reactant | o-tolylmagnesium bromide | C1(=C(C=CC=C1)[Mg]Br)C
reactant | Et2O | 2.45 mmol, 1.22 mL | CCOCC | C4H10O
reactant | HCl | 2N, 2 mL | Cl | ClH
solvent | THF | 2.04 mL | C1CCOC1 | C4H8O
solvent | water | 75 mL | O | H2O
product | (2-bromo-3-methylphenyl)(o-tolyl)methanone | BrC1=C(C=CC=C1C)C(=O)C1=C(C=CC=C1)C | C15H13BrO
